US07407968B2
4-[(Cyclopentylmethyl)amino]-3-nitro-N,N-bis(2,2,2-trifluoroethyl)benzamide
Following the general procedure for Intermediate 2 using 4-fluoro-3-nitro-N,N-bis(2,2,2-trifluoroethyl)benzamide (122 mg, 0.350 mmol) and cyclopentylmethyl amine (42 mg, 0.420 mmol) in 3 mL of EtOH containing TEA (0.075 mL, 0.525 mmol). The product was purified by flash chromatography on silica gel using 3:1/hexanes:EtOAc as eluent. Yield: 141 mg (94%); 1H NMR (400 MHz, CHLOROFORM-D) δ 1.30 (m, 2H), 1.64 (m, 4H), 1.89 (m, 2H), 2.26 (m, 1H), 3.24 (dd, J=7.23, 5.04 Hz, 2H), 4.23 (q, J=8.42 Hz, 4H), 6.91 (d, J=8.97 Hz, 1H), 7.50 (dd, J=8.97, 2.20 Hz, 1H), 8.26 (d, J=2.20 Hz, 1H), 8.33 (s, 1H); MS (ESI) 427.82 (MH+).

reactant | 4-fluoro-3-nitro-N,N-bis(2,2,2-trifluoroethyl)benzamide | 0.350 mmol, 122 mg | FC1=C(C=C(C(=O)N(CC(F)(F)F)CC(F)(F)F)C=C1)[N+](=O)[O-] | C11H7F7N2O3
reactant | cyclopentylmethyl amine | 0.420 mmol, 42 mg | C1(CCCC1)CN | C6H13N
solvent | EtOH | 3 mL | CCO | C2H6O
product | 4-[(Cyclopentylmethyl)amino]-3-nitro-N,N-bis(2,2,2-trifluoroethyl)benzamide | C1(CCCC1)CNC1=C(C=C(C(=O)N(CC(F)(F)F)CC(F)(F)F)C=C1)[N+](=O)[O-] | C17H19F6N3O3
